US05604242
To a solution of 2-benzylphenylacetic acid (5.5 g, 24 mmol, J. Am. Chem. Soc. 1955, 77, 5078) in THF (100 ml) a solution of lithium aluminiumhydride in THF (24 ml, 24 mmol, 1M) was added dropwise on an ice-bath. When addition was complete the mixture was stirred for 1 h at ambient temperature. Water (1 ml), 4N sodium hydroxide (2 ml) and water (4 ml) were added successively. The mixture was filtered and the filtrate was diluted with diethylether (250 ml). The phases were separated and the organic phase was washed with saturated ammonium chloride solution (3×100 ml) and dried (MgSO4). The solvent was evaporated in vacuo to give 4.8 g of crude 2-(2-benzylphenyl)ethanol as an oil.

reactant | 2-benzylphenylacetic acid | 24 mmol, 5.5 g | C(C1=CC=CC=C1)C1=C(C=CC=C1)CC(=O)O | C15H14O2
reactant | lithium aluminiumhydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 1 ml | O | H2O
reactant | sodium hydroxide | 4N, 2 ml | [OH-].[Na+]
reactant | water | 4 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 24 mmol, 1M, 24 ml | C1CCOC1 | C4H8O
product | 2-(2-benzylphenyl)ethanol | 4.8 g | C(C1=CC=CC=C1)C1=C(C=CC=C1)CCO | C15H16O
